US05631373
7-Chloro-3,4-dihydro-6-fluoro-quinoxaline-2(1H)-one:
A solution of a mixture of N-(4'-chloro-5'-fluoro-2'-nitrophenyl)glycine sodium salt and N-(2'-chloro-5'-fluoro-4'-nitrophenyl)glycine sodium salt (0.175 g, 0.704 mmol, as prepared above) and tin (II) chloride dihydrate (0.475 g, 2.11 mmol, Aldrich, used as received) in ethanol (3.5 mL) was refluxed for 30 min. It was then cooled to room temperature and the solvent was removed under vacuum. The residue was diluted with water (10 mL) and basified with saturated NaHCO3 (3.0 mL) to pH ~8. The resulting white suspension was extracted with ethyl acetate (30 mL). The ethyl acetate was dried over anhydrous Na2SO4 and removed under vacuum to yield 0.041 g (29%) of the pure (1H NMR) title compound as a light yellow powder; m.p. 217°-219° C. (decomposed); 1H NMR (DMSO-d6): δ3.745 (s, 2H), 6.37 (s, 1H), 6.587 (d, 1H, J=10.5 Hz), 6.741 (d, 1H, J=7.2 Hz), 10.331 (s, 1H).

reactant | N-(4'-chloro-5'-fluoro-2'-nitrophenyl)glycine sodium salt | [Na+].ClC1=CC(=C(C=C1F)NCC(=O)[O-])[N+](=O)[O-]
reactant | N-(2'-chloro-5'-fluoro-4'-nitrophenyl)glycine sodium salt | 0.704 mmol, 0.175 g | [Na+].ClC1=C(C=C(C(=C1)[N+](=O)[O-])F)NCC(=O)[O-]
reactant | tin (II) chloride dihydrate | 2.11 mmol, 0.475 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
product | 7-Chloro-3,4-dihydro-6-fluoro-quinoxaline-2(1H)-one | ClC1=C(C=C2NCC(NC2=C1)=O)F | C8H6ClFN2O
